US04711957
Preparation of N1,N4 -dimethyl-3,3-dimethyl-2-piperazinone by ketoform synthesis "C"
8.8 g N,N'-dimethyl-ethylene diamine, 12.0 g CHCl3, and 6.0 g acetone are placed in a 250 ml flask in an ice-bath, and 1.1 g BTAC added. To provide a homogeneous organic liquid phase, 100 ml dichloromethane is added. Then 40 ml conc NaOH (50% by wt) is dripped into the flask over about 30 mins. The reaction is allowed to proceed for about 5 hr and the reaction product is worked up by dissolving in a minimum amount of water, and then enough dichloromethane is added to provide two distinct layers. The aqueous layer is extracted twice with 50 ml dichloromethane, washed and worked up is a conventional manner. Upon distillation the product is obtained. The foregoing structure of the compound is supported by IR, NMR, GC and mass spectrometer data.

reactant | N,N'-dimethyl-ethylene diamine | 8.8 g | CNCCNC | C4H12N2
reactant | CHCl3 | 12.0 g | C(Cl)(Cl)Cl | CHCl3
reactant | acetone | 6.0 g | CC(=O)C | C3H6O
reactant | NaOH | 40 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N1,N4 -dimethyl-3,3-dimethyl-2-piperazinone | CN1C(C(N(CC1)C)(C)C)=O | C8H16N2O
